3:45 PM 6/30/2017* ----------------------------------------------------------------------
* --- 1580N16 Macromodel
* --- Rev 00, Jun 16, 2014 -- Developed by FF
* ----------------------------------------------------------------------
* ---- Pin assignment 
* --- IN1: Noninverting input 1
* --- Rg1: Inverting input 1
* --- Rg2: Inverting input 2
* --- IN2: Noninverting input 2
* --- OUT1: Output 1
* --- OUT2: Output 2
* --- Vpos: Positive power supply
* --- Vneg: Negative power supply
* ----------------------------------------------------------------------
* Rev 01, Jun 30, 2017, by RB
* Changed pins names to match datasheet
* ---------------------------------------------------------------------- 
* --- IN1: Noninverting input 1
* --- Rg1: Inverting input 1
* --- Rg2: Inverting input 2
* --- IN2: Noninverting input 2
* --- OUT1: Output 1
* --- OUT2: Output 2
* --- V+: Positive power supply
* --- V-: Negative power supply
* ----------------------------------------------------------------------
* 
.subckt THAT1580 IN1 Rg1 Rg2 IN2 OUT1 OUT2 V+ V- 
C_C4         $N_0001 0  4.9pF  
G_G6         $N_0001 0 $N_0002 $N_0003 0.0008
D_D4         $N_0004 $N_0005 Dgen 
R_R20         $N_0005 0  100Meg  
R_R21         $N_0006 0  100Meg  
D_D5         $N_0007 $N_0006 Dgen 
C_C6         $N_0008 0  4.9pF  
G_G7         $N_0008 0 $N_0002 $N_0009 0.0008
G_G11         V+ OUT2 $N_0010 $N_0007 0.0115
R_R23         $N_0011 0  100Meg  
D_D7         $N_0011 $N_0012 Dgen 
E_E6         0 $N_0013 Ref12 Ref11 1
R_R22         $N_0014 0  100Meg  
D_D6         $N_0014 $N_0015 Dgen 
E_E7         $N_0010 0 Ref12 Ref11 1
E_E8         $N_0005 0 $N_0010 $N_0004 100
E_E11         $N_0011 0 $N_0013 $N_0012 100
E_E9         $N_0006 0 $N_0010 $N_0007 100
E_E10         $N_0014 0 $N_0013 $N_0015 100
R_R7         0 $N_0001  64138  
R_R8         0 $N_0008  64138  
D_D8         OUT2 $N_0016 Dgen 
D_D12         $N_0017 OUT2 Dgen 
D_D13         $N_0017 OUT1 Dgen 
D_D9         OUT1 $N_0016 Dgen 
C_C2         OUT1 $N_0003  14.58pF  
C_C1         OUT2 $N_0009  14.58pF  
C_C5         $N_0018 $N_0001  10.5pF  
C_C3         $N_0019 $N_0008  10.5pF  
R_Rz1         $N_0018 OUT1  1.6k  
R_Rz2         OUT2 $N_0019  1.6k  
D_D2         $N_0001 $N_0020 Dgen 
R_R16         $N_0004 $N_0001  1Meg  
R_R17         $N_0012 $N_0001  1Meg  
D_D10         $N_0021 $N_0001 Dgen 
D_D11         $N_0021 $N_0008 Dgen 
R_R18         $N_0007 $N_0008  1Meg  
R_R19         $N_0015 $N_0008  1Meg  
D_D1         $N_0008 $N_0020 Dgen 
R_R11         OUT2 V+  30k  
R_R13         $N_0022 V+  41.44k  
G_G13         Rg2 0 $N_0023 0 1
G_G12         Rg1 0 $N_0024 0 1
X_M2         $N_0009 Rg2 $N_0025 $N_0025 pmos1 PARAMS: W=432u L=2.5u         
X_M1         $N_0003 Rg1 $N_0026 $N_0026 pmos1 PARAMS: W=432u L=2.5u         
I_I1         V+ Ref12 DC 1uA  
R_R15         Ref11 Ref12 Rptat 73153
R_R10         V- OUT1  29.91k  
G_G10         OUT2 V- $N_0015 $N_0013 0.0115
R_R12         V- OUT2  29.91k  
G_G8         OUT1 V- $N_0012 $N_0013 0.0115
R_R14         V- $N_0022  41.44k  
V_V5         $N_0002 V- 3.4V
R_R4         V- Ref11 Rptat 2028400
G_G1         Rg1 V- Ref11 V- 0.000493
X_Q2         $N_0025 $N_0027 Rg2 V- q2 PARAMS: M=80
X_Q1         $N_0026 $N_0028 Rg1 V- q2 PARAMS: M=80
G_G2         Rg2 V- Ref11 V- 0.000493
G_G5         $N_0003 V- Ref11 V- 0.0000986
G_G4         $N_0009 V- Ref11 V- 0.0000986
G_G15         V+ $N_0025 Ref11 V- 0.0005916
G_G14         V+ $N_0026 Ref11 V- 0.0005916
I_I2         V+ V- DC 1.645m  
R_Rb1         $N_0028 IN1  5.4425  
R_Rb2         IN2 $N_0027  5.4425  
R_Rnoi12         0 $N_0024  0.00243  
R_Rnoi11         $N_0024 0  0.00243  
R_Rnoi21         $N_0023 0  0.00243  
R_Rnoi22         0 $N_0023  0.00243  
V_V4         $N_0017 V- 1.8V
V_V3         V+ $N_0016 1.8V
V_V2         $N_0010 $N_0021 4.6V
V_V1         $N_0020 $N_0013 4.6V
G_G9         V+ OUT1 $N_0010 $N_0004 0.0115
R_R9         OUT1 V+  30k 
.MODEL RPTAT RES (R=1 TC1=3300E-6)
.MODEL D1 D (
+ IS=864.10E-18
+ N=1.0793
+ RS=100
+ IKF=1.0405
+ CJO=194.00E-15
+ M=.42945
+ VJ=.79868
+ ISR=10.127E-12
+ NR=4.9950
+ BV=100
+ IBV=10
+ TT=7.5741E-9)
.MODEL Dgen D (
+ IS=1E-14)
.ends 1580N16
* ----------------------------------------------------------------------
* PMOS
.subckt pmos1 d g s b params: w=1e-6 l=1e-6 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0 
m1 d1 g s b pmos1mod w={w} l={l} ad={ad} as={as} pd={pd} ps={ps} nrd={nrd} nrs={nrs}
rd d1 d 61 tc=3.600e-03, 5.000e-06 
.model pmos1mod pmos level=7
+capmod=3     mobmod=1     nqsmod=0     noimod=2
+k1=6.266e-01
+k2=3.270e-03       k3=1.391e+01          k3b=-1.588e+00
+nch=5.365e+15       vth0=-8.671e-01
+voff=-1.327e-01     dvt0=2.540e+00        dvt1=8.662e-01 
+dvt2=-4.593e-02     keta=-1.785e-02 
+pscbe1=9.389e+08    pscbe2=2.377e-06 
+dvt0w=0.000e+00     dvt1w=1.000e+04       dvt2w=0.000e+00 
+ua=4.290e-09        ub=1.000e-22          uc=-4.913e-11
+u0=2.560e+02
+dsub=3.600e-01      eta0=0.000e+00        etab=-1.200e-03
+nfactor=9.278e-01
+em=4.100e+07        pclm=1.480e+00
+pdiblc1=5.806e-03   pdiblc2=1.287e-04     drout=3.008e-01
+a0=8.977e-01        a1=0.000e+00          a2=8.025e-01
+pvag=7.832e+00      vsat=1.324e+05        ags=8.531e-02      
+b0=7.824e-07        b1=0.000e+00          delta=2.001e-03
+pdiblcb=0.000e+00
+w0=0.000e+00        dlc=2.500e-07
+dwc=2.541e-07       dwb=1.600e-08         dwg=-8.000e-09
+ll=0.000e+00        lw=0.000e+00          lwl=0.000e+00
+lln=1.000e+00       lwn=1.000e+00         wl=0.000e+00
+ww=-5.000e-15       wwl=0.000e+00         wln=1.000e+00
+wwn=1.200e+00
+tnom=27
+at=3.300e+04        ute=-1.600e+00
+kt1=-6.200e-01      kt2=-5.500e-02        kt1l=0.000e+00
+ua1=-2.200e-09       ub1=0.000e+00         uc1=0.000e+00
+prt=2.300e+04
+cgdo=2.300e-10      cgso=2.000e-10        cgbo=1.300e-10
+cgdl=1.500e-10      cgsl=0.000e+00        ckappa=3.000e-01
+cf=0.000e+00        elm=5.000e+00
+xpart=1.000e+00     clc=1.000e-15         cle=6.000e-01
+rdsw=1.400e+04      wr=1.000e+00
+cdsc=0.000e+00      cdscb=0.000e+00       cdscd=0.000e+00
+prwb=2.400e-01      prwg=-4.213e-02        cit=0.000e+00
+tox=4.100e-08
+nlx=1.000e-10
+ngate=1.000e+20
*+xl=0.000e+00        xw=0.000e+00
+alpha0=0.000e+00    
*+alpha1=4.072e-05    
+beta0=1.082e+02
+af=1.000e+00        kf=3.000e-29          ef=1.200e+00
+noia=9.900e+18      noib=4.000e+02        noic=4.000e-13
*+acm=3
+rd=0.0              rs=0.0                rsh=1.150e+02
*+rsc=0.0    
+lint=2.500e-07      wint=2.541e-07
*+ldif=0.0            hdif=8.000e-07
+xj=2.000e-06         
+js=2.500e-05        
*+jsw=5.000e-11
*+nds=1000              vnds=-1
*+n=1.500e+00                 
*+xti=3
+cj=2.800e-04        mj=4.500e-01          pb=7.500e-01
+cjsw=2.200e-10      mjsw=2.400e-01        
*+php=7.500e-01
+binunit=1
+lk3=0.000e+00       wk3=0.000e+00         pk3=0.000e+00
+lvoff=1.344e-02     wvoff=0.000e+00       pvoff=0.000e+00
+ldvt2=0.000e+00     wdvt2=0.000e+00       pdvt2=0.000e+00
+lketa=0.000e+00     wketa=0.000e+00       pketa=0.000e+00
+lpscbe1=2.983e+08   wpscbe1=0.000e+00     ppscbe1=0.000e+00
+lua=0.000e+00       wua=0.000e+00         pua=0.000e+00
+lub=0.000e+00       wub=0.000e+00         pub=0.000e+00
+luc=0.000e+00       wuc=0.000e+00         puc=0.000e+00
+leta0=0.000e+00     weta0=0.000e+00       peta0=0.000e+00
+letab=0.000e+00     wetab=0.000e+00       petab=0.000e+00
+la0=-4.800e-01       wa0=0.000e+00         pa0=-3.000e+00
+lvsat=0.000e+00     wvsat=0.000e+00       pvsat=0.000e+00
+lags=0.000e+00      wags=0.000e+00        pags=0.000e+00
+lrdsw=0.000e+00     wrdsw=-2.534e+04       prdsw=0.000e+00
+lpdiblc1=0.000e+00  wpdiblc1=0.000e+00    ppdiblc1=0.000e+00
+lpdiblc2=0.000e+00  wpdiblc2=0.000e+00    ppdiblc2=0.000e+00
+lnfactor=0.000e+00  wnfactor=0.000e+00    pnfactor=0.000e+00
+lpclm=2.205e+00     wpclm=0.000e+00       ppclm=0.000e+00
.ends pmos1  
* ----------------------------------------------------------------------
.subckt q2 c b e s params:  m=1
.param area={m*1}
q1 c b e [s] q2mod {area}
.model q2mod npn
+bf=2.662e+02       vaf=1.800e+03
+is=8.642e-16       nf=1.013e+00       
+isc=8.000e-16      nc=1.350e+00
+ikf=1.104e-03      nk=4.400e-01      
+ikr=2.800e-04      nr=1.007e+00
+ise=3.826e-15      ne=1.700e+00
+iss=2.000e-15      ns=1.000e+00
+br=3.672e+00       var=3.700e+00
+re=3.000e+00
+rc=1.536e+02
+rb=4.692e+02       trb1=3.000e-03   
+rbm=5.000e+01      trm1=3.000e-03
+irb=8.506e-05
+xcjc=8.600e-01     fc=8.800e-01
+eg=1.115e+00       xti=5.310e+00      xtb=2.600e+00
+tf=1.050e-10       xtf=1.400e+00      itf=6.000e-03
+vtf=1.900e+00      ptf=1.500e+01      tr=2.000e-08
+cje=6.200e-14      mje=3.200e-01      vje=7.200e-01
+cjc=1.150e-13      mjc=3.600e-01      vjc=5.600e-01
+cjs=1.030e-13      mjs=3.900e-01      vjs=5.500e-01
+af=1.800e+00       kf=3.000e-11
.ends q2
*